US07534793B2
(a) Quinoxaline-2-carboxaldehyde
This compound can also be prepared by oxidation of 2-methylquinoxaline with selenium dioxide, as described by Landquist et. al J. Chem. Soc. 2052 (1956).

reactant | 2-methylquinoxaline | CC1=NC2=CC=CC=C2N=C1 | C9H8N2
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | Quinoxaline-2-carboxaldehyde | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
